US07834012B2
trans-1-chloro-2-(6-nitrocyclohex-3-en-1-yl)benzene
A 10 mL solution of 1:1 1,3-butadiene and toluene stored at −20° C. and 2-chloro-β-nitrostyrene (2.0 g, 11 mmol) were added to a pressure tube and sealed. The solution was heated to 110° C. and stirred for three days. The reaction mixture was cooled to room temperature, concentrated, and the residue was crystallized from hexanes to give the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 7.35-7.38 (m, 1H), 7.15-7.29 (m, 3H), 5.71-5.84 (m, 2H), 5.09-5.16 (m, 1H), 4.04-4.13 (m, 1H), 2.76-2.84 (m, 2H), 2.54-2.60 (m, 1H), 2.19-2.28 (m, 1H).

reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | 2-chloro-β-nitrostyrene | 11 mmol, 2.0 g | ClC1=C(C=C[N+](=O)[O-])C=CC=C1 | C8H6ClNO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | trans-1-chloro-2-(6-nitrocyclohex-3-en-1-yl)benzene | ClC1=C(C=CC=C1)[C@@H]1CC=CC[C@H]1[N+](=O)[O-] | C12H12ClNO2
